US08071592B2
(a) 7-Fluoro-1-(2-propen-1-yl)-2H-3,1-benzoxazine-2,4(1H)-dione
To a solution of 7-fluoro-2H-3,1-benzoxazine-2,4(1H)-dione (5.01 g, 27.7 mmol) in DMF (100 ml) at 0° C. was added sodium hydride (1.11 g, 27.7 mmol, 60% in paraffin) over 15 min. Allyl iodide (2.6 ml, 27.7 mmol) was added and the solution stirred for 2 h, then poured onto ice (100 g) in water (200 ml). The precipitate was collected, washed with water, then hexane and dried under vacuum at 40° C. to yield the title compound (4.53 g, 74%) as an off-white solid.

reactant | 7-fluoro-2H-3,1-benzoxazine-2,4(1H)-dione | 27.7 mmol, 5.01 g | FC1=CC2=C(C(OC(N2)=O)=O)C=C1 | C8H4FNO3
reactant | sodium hydride | 27.7 mmol, 1.11 g | [H-].[Na+]
reactant | Allyl iodide | 27.7 mmol, 2.6 ml | C(C=C)I | C3H5I
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | 200 ml | O | H2O
product | 7-Fluoro-1-(2-propen-1-yl)-2H-3,1-benzoxazine-2,4(1H)-dione | 4.53 g, 74% | FC1=CC2=C(C(OC(N2CC=C)=O)=O)C=C1 | C11H8FNO3
